US07642264B2
2-(3-Bromo-phenyl)-4-(4-trifluoromethyl-phenyl)-6-methyl-pyrimidine
The title compound was prepared from 2-chloro-4-methyl-6-(4-trifluoromethyl-phenyl)pyrimidine (example A.12) (0.5 g, 1.83 mmol) and commercially available 3-bromo-benzeneboronic acid (0.48 g, 2.39 mmol) according to the general procedure IVb. Obtained as an off-white solid (0.11 g, 15%). MS (ISP) 395.0 [(M+H)+]; mp 102.5° C.

reactant | 2-chloro-4-methyl-6-(4-trifluoromethyl-phenyl)pyrimidine | 1.83 mmol, 0.5 g | ClC1=NC(=CC(=N1)C)C1=CC=C(C=C1)C(F)(F)F | C12H8ClF3N2
reactant | 3-bromo-benzeneboronic acid | 2.39 mmol, 0.48 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 2-(3-Bromo-phenyl)-4-(4-trifluoromethyl-phenyl)-6-methyl-pyrimidine | BrC=1C=C(C=CC1)C1=NC(=CC(=N1)C1=CC=C(C=C1)C(F)(F)F)C | C18H12BrF3N2
